US07906517B2
2-[(3,5-Bis-trifluoromethyl-benzyl)-ethyl-amino]-5-trifluoromethyl-benzaldehyde (275 mg) is dissolved in ethanol (2.5 ml) and thereto are added hydroxylammonium chloride (86 mg) and sodium acetate (102 mg), and the mixture is stirred at 60° C. under nitrogen atmosphere for 1 hour and a half. To the reaction solution are added a saturated brine and water, and the mixture is extracted with ethyl acetate, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=24:1→83:17) to give 2-[(3,5-bis-trifluoromethyl-benzyl)-ethyl-amino]-5-trifluoromethyl-benzaldehydeoxime (244 mg). MS (m/z): 459 [M+H]+

reactant | 2-[(3,5-Bis-trifluoromethyl-benzyl)-ethyl-amino]-5-trifluoromethyl-benzaldehyde | 275 mg | FC(C=1C=C(CN(C2=C(C=O)C=C(C=C2)C(F)(F)F)CC)C=C(C1)C(F)(F)F)(F)F | C19H14F9NO
reactant | hydroxylammonium chloride | 86 mg | [Cl-].O[NH3+]
reactant | sodium acetate | 102 mg | C(C)(=O)[O-].[Na+]
reactant | water | O | H2O
solvent | ethanol | 2.5 ml | C(C)O | C2H6O
solvent | brine | [Cl-].[Na+].O
product | 2-[(3,5-bis-trifluoromethyl-benzyl)-ethyl-amino]-5-trifluoromethyl-benzaldehydeoxime | 244 mg | FC(C=1C=C(CN(C2=C(C=NO)C=C(C=C2)C(F)(F)F)CC)C=C(C1)C(F)(F)F)(F)F | C19H15F9N2O
